US05591735
Preparation of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3α,17β-dihydroxy-16β-(1-piperidinyl)-5α-androstane
2α,3α-Epoxy-16β-(1-piperidinyl)-5α-androstane-17β-ol is reacted with 1,4-dioxa-8-azaspiro[4.5]decane as described in Example 3 to give the title compound in a yield of 79.88%, m.p.: 216°-218° C.

reactant | 2α,3α-Epoxy-16β-(1-piperidinyl)-5α-androstane-17β-ol | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCCC2 | C24H39NO2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
product | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3α,17β-dihydroxy-16β-(1-piperidinyl)-5α-androstane | yield of 79.88% | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCCC2)O | C31H52N2O4
